US07465733B2
Step A: trans-2-Bromo-1,2,3,4-tetrahydronaphth-1-ol
To 13.0 g (100 mmol) of dihydronaphthalene, dissolved in a mixture of 100 ml of water and 400 ml of tetrahydrofuran, at ambient temperature, there are added, all at once, 19.6 g (110 mmol) of N-bromosuccinimide and stirring is carried out for 3 hours. There are then added 200 ml of ice-cold water and 200 ml of ether; stirring is carried out and the phases are separated. The aqueous phase is extracted with 200 ml of ether; the combined organic phases are then washed with 200 ml of a saturated aqueous solution of sodium chloride and dried and then evaporated to yield the expected compound.

reactant | dihydronaphthalene | 100 mmol, 13.0 g | C1CC=CC2=CC=CC=C12 | C10H10
reactant | N-bromosuccinimide | 110 mmol, 19.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | trans-2-Bromo-1,2,3,4-tetrahydronaphth-1-ol | Br[C@H]1[C@@H](C2=CC=CC=C2CC1)O | C10H11BrO
